US08378095B2
To a mixture of ethyl 2-iodo-5-(4-methoxyphenyl)oxazole-4-carboxylate (0.100 g, 0.27 mmol) and 2-thiophenyl boronic acid (0.069 g, 0.54 mmol) in acetonitrile (2 mL) was added a solution of Pd(dppf)2Cl2 (0.010 g, 0.012 mmol) in acetonitrile (0.2 mL) followed by 1M aqueous sodium carbonate solution (0.535 mL, 0.54 mmol). The resulting reaction mixture was heated at 150° C. in the microwave for 15 minutes and the solvent was then removed in vacuo. The residue was purified by silica gel column chromatography using a gradient of 4-90% EtOAc in hexanes to afford ethyl 5-(4-methoxyphenyl)-2-(thiophen-2-yl)oxazole-4-carboxylate which was used without further purification. LCMS (1) Rt: 2.45 min; m/z (ES+) 330.

reactant | ethyl 2-iodo-5-(4-methoxyphenyl)oxazole-4-carboxylate | 0.27 mmol, 0.100 g | IC=1OC(=C(N1)C(=O)OCC)C1=CC=C(C=C1)OC | C13H12INO4
reactant | 2-thiophenyl boronic acid | 0.54 mmol, 0.069 g | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | sodium carbonate | 0.54 mmol, 1M, 0.535 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
solvent | acetonitrile | 0.2 mL | C(C)#N | C2H3N
catalyst | Pd(dppf)2Cl2 | 0.012 mmol, 0.010 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | ethyl 5-(4-methoxyphenyl)-2-(thiophen-2-yl)oxazole-4-carboxylate | COC1=CC=C(C=C1)C1=C(N=C(O1)C=1SC=CC1)C(=O)OCC | C17H15NO4S
